US07871998B2
N-[(4-{(2R,3R)-1-(4-fluorophenyl)-3-[(2-hydroxy-2-phenylethyl)thio]-4-oxoazetidin-2-yl}phenoxy)acetyl]glycyl-D-valine
(4-{(2R,3R)-1-(4-Fluorophenyl)-4-oxo-3-[(2-oxo-2-phenylethyl)thio}azetidin-2-yl]phenoxy)acetic acid (15 mg, 0.043 mmol), tert-butyl glycyl-D-valinate hydrochloride, (14.3 mg, 0.054 mmol) and N-methylmorpholine (14 μl, 0.13 mmol) were dissolved in DCM (2 ml). After 5 minutes, TBTU (16.9 mg, 0.053 mmol) was added and the reaction mixture was stirred for 2.5 h. The formation of the ester was confirmed. M/z: 678.35 (N+H). The solvent was removed under reduced pressure. The residue was dissolved in EtOAc:DCM (1:3) and purified on silica gel (1 g) using EtOAc:DCM (1:3) as eluent. The fractions were collected and concentrated. The residue (0.029 g) was dissolved in DCM (3 ml) and TFA (0.5 ml) was added. The reaction mixture was stirred overnight. The solvent was removed under reduced pressure and toluene was added and removed under reduced pressure. The yellowish residue was dissolved in MeOH (2 ml) and sodium borohydride (16.2 mg, 0.43 mmol) was added. The reaction mixture was stirred for 10 minutes. Ammonium acetate (31.4 mg) was added and the solvent was removed under reduced pressure. The residue was purified with preparative HPLC on a C8 column. A gradient from 20% to 50% MeCN in 0.1 M ammonium acetate buffer was used as eluent. After lyophilisation, the title compound was obtained as a white solid (7.6 mg, 28%). H-NMR (400 MHz, DMSO-d6): 0.79 (d, 3H), 0.81 (d, 3H) 1.95-2.05 (m, 1H), 2.84-2.96 (m, 2H), 3.79 (d, 2H), 3.98-4.04 (m, 1H), 4.27 (d, 0.5H), 4.30 (d, 0.5H), 4.51 (s, 2H), 4.66-4.75 (m, 1H), 5.02 (d, 0.5H), 5.04 (d, 0.5H), 6.98 (d, 2H), 7.10-7.17 (m, 2H), 7.19-7.32 (m, 7H), 7.36 (d, 2H), 7.77 (t, 1H), 8.26 (t, 1H). M/z: 622.1 (M−H) and 624.2 (M+H).

reactant | (4-{(2R,3R)-1-(4-Fluorophenyl)-4-oxo-3-[(2-oxo-2-phenylethyl)thio}azetidin-2-yl]phenoxy)acetic acid | 0.043 mmol, 15 mg | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(C1=CC=CC=C1)=O)C1=CC=C(OCC(=O)O)C=C1 | C25H20FNO5S
reactant | tert-butyl glycyl-D-valinate hydrochloride | 0.054 mmol, 14.3 mg | Cl.NCC(=O)N[C@H](C(C)C)C(=O)OC(C)(C)C
reactant | N-methylmorpholine | 0.13 mmol, 14 μl | CN1CCOCC1 | C5H11NO
reactant | TBTU | 0.053 mmol, 16.9 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | sodium borohydride | 0.43 mmol, 16.2 mg | [BH4-].[Na+]
reactant | Ammonium acetate | 31.4 mg | C(C)(=O)[O-].[NH4+]
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
product | N-[(4-{(2R,3R)-1-(4-fluorophenyl)-3-[(2-hydroxy-2-phenylethyl)thio]-4-oxoazetidin-2-yl}phenoxy)acetyl]glycyl-D-valine | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(C1=CC=CC=C1)O)C1=CC=C(OCC(=O)NCC(=O)N[C@H](C(C)C)C(=O)O)C=C1 | C32H34FN3O7S
